US04243408
Example 2--Preparation of 2-(2,6-dimethylphenylaminomethyl)-5-methyl-1,3,4-oxadiazole)
A solution of 19.3 g (0.1 mol) alpha-(2,6-dimethylphenyl-amino)acethydrazide and 14 g (0.11 mol) ethyl actimidate hydrochloride (Aldrich Chemical Co.) in 150 ml pyridine was heated under reflux for 9 hours. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure to give an oil. The oil was placed on 400 g silica gel in a chromatography column and eluted the following solvent systems: (1) petroleum ether, (2) petroleum ether/ethyl ether, (3) ethyl ether, and (4) ethyl ether/methanol. The crude product (11.5 g) was eluted from the column with the ethyl ether/methanol solvent system. Crystallization of the crude product from dichloromethane/ethyl ether gave 7.4 g of crystalline product, m.p. 134°-135° C. The product is tabulated in Table I as Compound No. 1-A.

reactant | alpha-(2,6-dimethylphenyl-amino)acethydrazide | 0.1 mol, 19.3 g | CC1=C(C(=CC=C1)C)NCC(=O)NN | C10H15N3O
reactant | ethyl actimidate hydrochloride | 0.11 mol, 14 g | Cl.C(C)(OCC)=N
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2,6-dimethylphenylaminomethyl)-5-methyl-1,3,4-oxadiazole | 7.4 g | CC1=C(C(=CC=C1)C)NCC=1OC(=NN1)C | C12H15N3O
